US07276606B2
[6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-thiophen-2-yl-methanone was prepared from phenanthridine, 2-thenoyl chloride, and indole according to GP 2. Yield, 17%. 1H-NMR (CD3OD): δ=6.17 (d, J=0.9 Hz, 1H), 6.67 (d, J=7.9 Hz, 1H), 6.84-6.89 (m, 2H), 6.91 (td, J=3.8 Hz, J=1.1 Hz, 1H), 7.02-7.11 (m, 2H), 7.18-7.24 (m, 2H), 7.26 (s, 1H), 7.38-7.46 (m, 2H), 7.50-7.56 (m, 2H), 7.93 (dd, J=7.9 Hz, J=1.3 Hz, 1H), 7.97-8.01 (m, 1H), 8.06 (d, J=7.9 Hz, 1H); (+)-ESI-MS: m/z=407 [M+H]+, 290 [M-indole+H]+.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 2-thenoyl chloride | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | [6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-thiophen-2-yl-methanone | N1C=C(C2=CC=CC=C12)C1N(C=2C=CC=CC2C2=CC=CC=C12)C(=O)C=1SC=CC1 | C26H18N2OS
